US09290519B2
Preparation of 7-bromo-N-phenyl-2,3-dihydro-1H-inden-1-amine
To a stirred solution of 10.4 g (112 mmol) of aniline in 60 ml of toluene 5.31 g (28.0 mmol) of TiCl4 was added for 30 min at room temperature in argon atmosphere. The resulting mixture was stirred at 90° C. for 30 min followed by an addition of 6.00 g (28.0 mmol) of 7-bromoindan-1-one. The resulting mixture was stirred for 10 min at 90° C., poured into 500 ml of water, and crude product was extracted with 3×100 ml of ethyl acetate. The organic layer was separated, dried over Na2SO4, and then evaporated to dryness. The residue was crystallized from 10 ml of ethyl acetate at −30° C. The resulting solid was separated and dried in vacuum. After that it was dissolved in 100 ml of methanol, 2.70 g (42.9 mmol) of NaBH3CN and 0.5 ml of glacial acetic acid was added. The resulting mixture was refluxed for 3 h in argon atmosphere. The resulting mixture was cooled to room temperature and then evaporated to dryness. The residue was diluted with 200 ml of water, and crude product was extracted with 3×50 ml of ethyl acetate. The combined organic extract was dried over Na2SO4 and evaporated to dryness. The residue was purified by flash chromatography on silica gel 60 (40-63 um, eluent: hexane-ethyl acetate-triethylamine=100:10:1, vol.). Yield 5.50 g (68%) of a yellow oil. Anal. calc. for C15H14BrN: C, 62.52; H, 4.90; N, 4.86. Found: C, 62.37; H, 5.05; N, 4.62. 1H NMR (CDCl3): δ 7.38 (m, 1H, 6-H in indane); 7.22 (m, 3H, 3,5-H in phenyl and 4-H in indane); 7.15 (m, 1H, 5-H in indane); 6.75 (m, 1H, 4-H in indane); 6.69 (m, 2H, 2,6-H in phenyl); 4.94 (m, 1H, 1-H in indane); 3.82 (br.s, 1H, NH); 3.17-3.26 (m, 1H, 3- or 3′-H in indane); 2.92-2.99 (m, 2H, 3′- or 3-H in indane); 2.22-2.37 (m, 2H, 2,2′-H in indane).

reactant | aniline | 112 mmol, 10.4 g | NC1=CC=CC=C1 | C6H7N
reactant | toluene | 28.0 mmol, 60 ml, 5.31 g | C1(=CC=CC=C1)C | C7H8
reactant | 7-bromoindan-1-one | 28.0 mmol, 6.00 g | BrC=1C=CC=C2CCC(C12)=O | C9H7BrO
reactant | NaBH3CN | 42.9 mmol, 2.70 g | [BH3-]C#N.[Na+]
catalyst | TiCl4 | Cl[Ti](Cl)(Cl)Cl
solvent | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
solvent | water | 500 ml | O | H2O
product | 7-bromo-N-phenyl-2,3-dihydro-1H-inden-1-amine | BrC=1C=CC=C2CCC(C12)NC1=CC=CC=C1 | C15H14BrN
